US07838547B2
5-(4-Aminophenyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester
A suspension of 5-(4-nitrophenyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (450 mg) and palladium(II) hydroxide (20% on carbon; 0.15 g) in ethanol (30 ml) was vigorously stirred under a hydrogen atmosphere (atmospheric pressure) for 3 hours. The catalyst was then removed by filtration, and the filtrate was concentrated. The product with the molecular weight of 289.38 (C16H23N3O2); MS (ESI): 290 (M+H+) was obtained in this way.

reactant | 5-(4-nitrophenyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 450 mg | C(C)(C)(C)OC(=O)N1C2CN(C(C1)C2)C2=CC=C(C=C2)[N+](=O)[O-] | C16H21N3O4
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium(II) hydroxide | 0.15 g | [OH-].[Pd+2].[OH-]
product | 5-(4-Aminophenyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CN(C(C1)C2)C2=CC=C(C=C2)N | C16H23N3O2
